US07858619B2
23D: 5-(2-Piperidin-1-ylethoxy)-2-(toluene-4-sulfonyl)-1,2,3,4-tetrahydroisoquinoline-1-carboxylic acid;
4-Methyl-N-{2-[2-(2-piperidin-1-ylethoxy)phenyl]ethyl}benzenesulfonamide is reacted with glyoxylic acid in analogy to the method described for Example 20.

reactant | 4-Methyl-N-{2-[2-(2-piperidin-1-ylethoxy)phenyl]ethyl}benzenesulfonamide | CC1=CC=C(C=C1)S(=O)(=O)NCCC1=C(C=CC=C1)OCCN1CCCCC1 | C22H30N2O3S
reactant | glyoxylic acid | C(C=O)(=O)O | C2H2O3
product | 5-(2-Piperidin-1-ylethoxy)-2-(toluene-4-sulfonyl)-1,2,3,4-tetrahydroisoquinoline-1-carboxylic acid | N1(CCCCC1)CCOC1=C2CCN(C(C2=CC=C1)C(=O)O)S(=O)(=O)C1=CC=C(C=C1)C | C24H30N2O5S
